US05889010
D. 5-Fluoro-1-{3-[4-(4-fluoro-phenyl)-piperazin-1-yl]-butyl}-2-methyl-1H -benzoimidazole
To a refluxing, stirred mixture of (4-fluoro-2-nitro-phenyl)-{3-[4-(4-fluorophenyl) piperazin-1-yl]-butyl}-amine (0.38 gm), 10 ml acetic acid are added small portions of Zn dust (excess) until a nearly colorless reaction mixture is obtained approx. 4 hours). Insolubles are removed by filtration, washed with acetic acid and the combined acetic acid layer concentrated to a black oil. This oily residue is dissolved in ethyl acetate (50 ml) and washed with 2×10 ml water and brine. The organic layer is collected, the sovent removed and the residue purified by flash chromatography (solid phase: SiO2 ; eluent: gradient starting with ethyl acetate followed by ethyl acetate/methanol 8:2). Obtained are 0.1 gm of 5-fluoro-1-{3-[4-(4-fluoro-phenyl)-piperazin-1-yl]-butyl}-2-1H-benzoimidazole. (M+/Z 384.47).

reactant | (4-fluoro-2-nitro-phenyl)-{3-[4-(4-fluorophenyl) piperazin-1-yl]-butyl}-amine | 0.38 gm | FC1=CC(=C(C=C1)NCCC(C)N1CCN(CC1)C1=CC=C(C=C1)F)[N+](=O)[O-] | C20H24F2N4O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | [Zn] | Zn
product | 5-Fluoro-1-{3-[4-(4-fluoro-phenyl)-piperazin-1-yl]-butyl}-2-methyl-1H -benzoimidazole | FC1=CC2=C(N(C(=N2)C)CCC(C)N2CCN(CC2)C2=CC=C(C=C2)F)C=C1 | C22H26F2N4
